US05958910
A mixture of 10 g of 4-(1-naphthyl)-thiazol-2-ylamine hydrobromide with 8.5 g of 3,4-dimethoxy-benzenesulfonyl chloride was stirred for 18 hours with 30 ml of pyridine. The resulting, red colored suspension was poured into 400 ml of 1N hydrochloric acid. The separated solid was dissolved in a mixture of 400 ml of ethanol and 400 ml of 2N sodium hydroxide solution. After the addition of 8 g of active charcoal the mixture was stirred at room temperature for 30 minutes and subsequently the active charcoal was filtered off. After neutralization with concentrated hydrochloric acid the mixture was concentrated and the residue was taken up with ethyl acetate, dried with magnesium sulphate and concentrated. Crystallization from 200 ml of ethyl acetate yielded 11.5 g of 3,4-dimethoxy-N-(4-naphthalen-1-yl-thiazol-2-yl)-benzenesulfonamide as colorless crystals.

reactant | 4-(1-naphthyl)-thiazol-2-ylamine hydrobromide | 10 g | Br.C1(=CC=CC2=CC=CC=C12)C=1N=C(SC1)N
reactant | 3,4-dimethoxy-benzenesulfonyl chloride | 8.5 g | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | hydrochloric acid | 1N, 400 ml | Cl | ClH
reactant | charcoal | 8 g | C | CH4
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 2N, 400 ml | [OH-].[Na+]
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 3,4-dimethoxy-N-(4-naphthalen-1-yl-thiazol-2-yl)-benzenesulfonamide | 11.5 g | COC=1C=C(C=CC1OC)S(=O)(=O)NC=1SC=C(N1)C1=CC=CC2=CC=CC=C12 | C21H18N2O4S2
